US06090839
Step A: Preparation of 4-hydroxy-5-propyl-2'-fluorobenzophenone
A 0° C. suspension of 2-fluorobenzoyl chloride (1.3 mL, 11.03 mmol) in 15 mL of 1,2-dichloroethane was treated with aluminum chloride (1.0 g, 7.35 mmol). The suspension was vigorously stirred for 15 minutes. A solution of 2-propylphenol (1.0 g, 7.35 mmol) in 5 mL of 1,2-dichloro-ethane was added dropwise. The mixture was allowed to stir and gradually warm to 25° C. over 6 hours. The mixture was slowly added to a stirred mixture of water and methylene chloride. The organic phase was dried over magnesium sulfate, filtered and concentrated to a solid. The crude residue was purified via flash chromatography on silica gel (15% ethyl acetate/hexane eluent) to afforded the title compound.

reactant | 2-fluorobenzoyl chloride | 11.03 mmol, 1.3 mL | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | aluminum chloride | 7.35 mmol, 1.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-propylphenol | 7.35 mmol, 1.0 g | C(CC)C1=C(C=CC=C1)O | C9H12O
reactant | water | O | H2O
solvent | 1,2-dichloroethane | 15 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloro-ethane | 5 mL | ClCCCl | C2H4Cl2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-hydroxy-5-propyl-2'-fluorobenzophenone | OC1=CC=C(C(=O)C2=C(C=CC=C2)F)C=C1CCC | C16H15FO2
